US09403798B2
4-[4-(4-Fluorophenyl)piperazin-1-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one
To an N,N-dimethylformamide solution (1 mL) of 4-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one (50.0 mg, 0.18 mmol) synthesized in Reference Synthesis Example 3, [5-(trifluoromethyl)thiophen-2-yl]methyl 4-methylbenzenesulfonate (121 mg, 0.36 mmol) synthesized in Reference Synthesis Example 51 and potassium carbonate (99 mg, 0.72 mmol) were added and the resultant mixture was stirred at 80° C. for 2 hours. To the reaction solution, [5-(trifluoromethyl)thiophen-2-yl]methyl 4-methylbenzenesulfonate (500 mg, 0.48 mmol) was added and the resultant reaction solution was stirred further for 2 hours. After the completion of the reaction, water was added to the reaction solution and extraction with ethyl acetate from the resultant reaction solution was performed three times. The organic layer was washed with brine, was dried over anhydrous magnesium sulfate, and was concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to obtain the title compound (9.4 mg, yield: 12%).

reactant | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
reactant | 4-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one | 0.18 mmol, 50.0 mg | FC1=CC=C(C=C1)N1CCN(CC1)C1=NC(NC=N1)=O | C13H14FN5O
reactant | [5-(trifluoromethyl)thiophen-2-yl]methyl 4-methylbenzenesulfonate | 0.36 mmol, 121 mg | CC1=CC=C(C=C1)S(=O)(=O)OCC=1SC(=CC1)C(F)(F)F | C13H11F3O3S2
reactant | potassium carbonate | 0.72 mmol, 99 mg | C([O-])([O-])=O.[K+].[K+]
reactant | [5-(trifluoromethyl)thiophen-2-yl]methyl 4-methylbenzenesulfonate | 0.48 mmol, 500 mg | CC1=CC=C(C=C1)S(=O)(=O)OCC=1SC(=CC1)C(F)(F)F | C13H11F3O3S2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-[4-(4-Fluorophenyl)piperazin-1-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 9.4 mg, yield: 12% | FC1=CC=C(C=C1)N1CCN(CC1)C1=NC(N(C=N1)CC=1SC(=CC1)C(F)(F)F)=O | C19H17F4N5OS
